US08729063B2
8-(Benzyloxy)-1,4-dioxaspiro[4.5]decane.
To a mixture of 1,4-dioxaspiro[4.5]decan-8-01 (1.18 g, 7.46 mmol) and NaH (0.358 g, 8.96 mmol) in DMF (5 mL) at 0° C. was added benzyl bromide (1.06 mL, 8.95 mmol). After being stirred overnight under N2, water and EtOAc were added. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were dried (MgSO4), concentrated and flash chromatographed using 10% EtOAc/hexane to give 1.524 g of the title compound. MS (EI) calcd: (M+1)+=249.1; found: 249.2. 1H NMR (300 MHz, CDCl3) δ (ppm) 7.35 (5H, m), 4.52 (2H, s), 3.95 (4H, m), 3.5 (1H, m), 1.95-1.50 (8H, m).

reactant | NaH | 8.96 mmol, 0.358 g | [H-].[Na+]
reactant | benzyl bromide | 8.95 mmol, 1.06 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-(Benzyloxy)-1,4-dioxaspiro[4.5]decane | 1.524 g | C(C1=CC=CC=C1)OC1CCC2(OCCO2)CC1 | C15H20O3
